US07547716B2
(2) Preparation of 5-amino-N-[(1-naphthalenyl)methyl]-1-naphthalenesulfonamide hydrochloride.
N-[5-[[[(1-naphthalenyl)methyl]amino]sulfonyl]-1-naphthalenyl]acetamide (226 mg, 0.56 mmol) was suspended in a mixed solution of 1-propanol (8 ml), concentrated hydrochloric acid (1 ml) and water (1 ml), and the mixture was refluxed for 1 hour. The crystal precipitated by cooling of the reaction mixture to room temperature was filtered and washed with the mixed solvent of 1-propanol/diisopropyl ether under reflux to give the title compound an a white crystal (201 mg, 90.8%).

reactant | N-[5-[[[(1-naphthalenyl)methyl]amino]sulfonyl]-1-naphthalenyl]acetamide | 0.56 mmol, 226 mg | C1(=CC=CC2=CC=CC=C12)CNS(=O)(=O)C1=C2C=CC=C(C2=CC=C1)NC(C)=O | C23H20N2O3S
reactant | 1-propanol | 8 ml | C(CC)O | C3H8O
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | water | 1 ml | O | H2O
product | 5-amino-N-[(1-naphthalenyl)methyl]-1-naphthalenesulfonamide hydrochloride | Cl.NC1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NCC1=CC=CC2=CC=CC=C12 | InChI=1S/C21H18N2O2S.ClH/c22-20-12-4-11-19-18(20)10-5-13-21(19)26(24,25)23-14-16-8-3-7-15-6-1-2-9-17(15)16;/h1-13,23H,14,22H2;1H
